US05869485
1 g of 4-(3-chlorophenyl)-1-phenyl-2-amino-3-cyanopyrrole is heated at 180° C. with a spatula tipful of dimethylaminopyridine for 14 h in 10 ml of formamide under a nitrogen atmosphere. After cooling to RT, the mixture is treated with water and the crystals obtained are filtered off, washed with water and dried. After chromatography on silica gel (methylene chloride/methanol 15:1), the product-containing fractions are concentrated, slurried in ether and filtered. 5-(3-Chlorophenyl)-7-phenyl-4-aminopyrrolo[2,3-d]pyrimidine having a melting point of 173°-175° C. is obtained. 1H--NMR (d6 -DMSO): delta (ppm)=6.3 (br. s, 2H), 7.3-7.55 (m, 6H), 7.65(s, 1H), 7.8 (s, 1H), 7.85 (d, 2H), 8.2 (s, 1H).

reactant | 4-(3-chlorophenyl)-1-phenyl-2-amino-3-cyanopyrrole | 1 g | ClC=1C=C(C=CC1)C=1C(=C(N(C1)C1=CC=CC=C1)N)C#N | C17H12ClN3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
reactant | formamide | 10 ml | C(=O)N | CH3NO
product | 5-(3-Chlorophenyl)-7-phenyl-4-aminopyrrolo[2,3-d]pyrimidine | ClC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC=CC=C2 | C18H13ClN4
